US04448776
180 g of N,N'-bis-(diphenylmethylene)-1,2-propylenediamine are dissolved in 540 ml of acetic acid. 3 g of platinum oxide are added and the mixture is scavenged thoroughly with argon and then hydrogen is introduced while stirring vigorously until starting material can no longer be detected by thin layer chromatography (silica gel 60, diethyl ether: Rf =0.62) (generally 24 to 48 hours). The reaction solution is diluted with 150 ml of ethanol, the catalyst is filtered off and then the filtrate is concentrated to dryness by evaporation under reduced pressure in a water bath. The oil residue obtained after concentration by evaporation is triturated with 375 ml of 10% sodium hydroxide solution and extracted twice with 375 ml of diethyl ether each time. The ether phases are combined, washed twice with 70 ml of saturated sodium chloride solution each time, dried over magnesium sulphate and then evaporated to dryness on a water bath, first at approximately 20 mbar and then at approximately 0.03 mbar. The residue is dissolved in approximately 300 ml of ethanol, water is added until the solution starts to become cloudy (approximately 20 ml) and then the whole is caused to crystallise in an ice bath. The precipitated crystals are filtered with suction, washed with a little methanol and dried thoroughly at approximately 0.03 mbar. N,N'-bis-(diphenylmethyl)-1,2-propylenediamine having a melting point of 72°-75° C. is obtained which can be further purified by recrystallisation from approximately double the quantity of methanol and by precipitation with water, and then melts at 75°-77° C.

reactant | N,N'-bis-(diphenylmethylene)-1,2-propylenediamine | 180 g | C1(=CC=CC=C1)C(=NCC(C)N=C(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H26N2
reactant | hydrogen | [H][H] | H2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | 540 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | platinum oxide | 3 g | [Pt]=O
product | N,N'-bis-(diphenylmethyl)-1,2-propylenediamine | C1(=CC=CC=C1)C(NCC(C)NC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H30N2
